US08957093B2
Step 1: (S)-tert-butyl 4′-((5-((1-(5-cyclopropylpyridin-2-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate
A high-pressure vial was filled with the (S)-tert-butyl 4′-((5-((1-(5-bromopyridin-2-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate (50 mg, 0.078 mmol), cyclopropylboronic acid (8 mg, 0.09 mmol, 1.2 equiv), Pd(OAc)2 (12 mg, 0.055 mmol, 0.7 equiv), (Cy)3P (8.7 mg, 0.031 mmol, 0.4 equiv), K3PO4 (49 mg, 0.23 mmol, 3 equiv), in toluene-water (10%). The reaction mixture was heated at 100° C. for 3 h under microwaves. The mixture was evaporated in vacuo to obtain the crude which was purified by prep. HPLC (MeOH/Acetonitrile/water) to obtain the title compound.

reactant | (S)-tert-butyl 4′-((5-((1-(5-bromopyridin-2-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | 0.078 mmol, 50 mg | BrC=1C=CC(=NC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C36H36BrN3O3
reactant | cyclopropylboronic acid | 0.09 mmol, 8 mg, 1.2 equiv | C1(CC1)B(O)O | C3H7BO2
reactant | (Cy)3P | 0.031 mmol, 8.7 mg, 0.4 equiv | P(C1CCCCC1)(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 0.23 mmol, 49 mg, 3 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene water | C1(=CC=CC=C1)C.O
catalyst | Pd(OAc)2 | 0.055 mmol, 12 mg, 0.7 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-tert-butyl 4′-((5-((1-(5-cyclopropylpyridin-2-yl)ethyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylate | C1(CC1)C=1C=CC(=NC1)[C@H](C)NC(=O)C=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C)C | C39H41N3O3
